US07842688B2
a) tert-Butyl 3-{2-[2-(2-methanesulphonylaminoethyl)phenoxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
A solution of 0.25 g of tert-butyl 3-{2-[2-(2-aminoethyl)phenoxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate in 12 ml of dichloromethane is admixed at room temperature with a solution of 0.12 ml of triethylamine in 1 ml of dichloromethane. Subsequently, a solution of 0.034 ml of methanesulphonyl chloride in 1 ml of dichloromethane is added dropwise. After stirring for 2 hours, the reaction mixture is diluted with dichloromethane, washed with 1M aqueous potassium bisulphate solution (2×), dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.07 (1:2 EtOAc-heptane); Rt=5.78.

reactant | tert-butyl 3-{2-[2-(2-aminoethyl)phenoxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.25 g | NCCC1=C(OCCOC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=CC=C1 | C37H50N2O7
reactant | triethylamine | 0.12 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 0.034 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | tert-Butyl 3-{2-[2-(2-methanesulphonylaminoethyl)phenoxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | CS(=O)(=O)NCCC1=C(OCCOC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=CC=C1 | C38H52N2O9S
